US04536504
In 20 ml of pyridine were dissolved 5.24 g (20 mmol) of ethyl 5-fluoro-6-acetoxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate and 2.62 g (23.6 mmol) of (E)-furfuraldoxime, and 2.02 g (20 mmol) of triethylamine was added to the solution, followed by stirring at room temperature for 15 hours. The reaction solution was poured into 200 ml of ice-cooled water, and crystals precipitated were collected by filtration and washed with water. The crystals were dried under reduced pressure and recrystallized from ethanol to give 3.28 g of ethyl 5-fluoro-6-(E)-furfurylideneaminooxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate. m.p. 189°-190° C.

reactant | ethyl 5-fluoro-6-acetoxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | 20 mmol, 5.24 g | FC1(C(NC(NC1OC(C)=O)=O)=O)C(=O)OCC | C9H11FN2O6
reactant | (E)-furfuraldoxime | 23.6 mmol, 2.62 g | C(/C1=CC=CO1)=N\O | C5H5NO2
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 5-fluoro-6-(E)-furfurylideneaminooxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | 3.28 g | FC1(C(NC(NC1O/N=C/C1=CC=CO1)=O)=O)C(=O)OCC | C12H12FN3O6
